simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
parameters vddval=1.2
VDD (vdd 0) vsource dc=vddval
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27
VC (clk 0) vsource type=pulse val0=0 val1=1.2 period=250p width=123p rise=2p fall=2p delay=20p
VD (data 0) vsource type=pulse val0=0 val1=1.2 period=1n width=490p rise=10p fall=10p delay=70p
VE (en 0) vsource dc=1.2
XR (data clk en out vdd 0) tx_retimer_tspc
CL (out 0) capacitor c=5f
tran tran stop=25n errpreset=conservative maxstep=5p
save XR.qb XR.ck XR.XFF.b XR.XFF.a clk data out VDD:p
saveOptions options save=selected
